US04621084
5-(3-Methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone (1.5 g) was prepared in the substantially same manner as that of Example 4 from 5-(2-bromopropionyl)-3-methyl-2-benzothiazolinone (3.0 g) and 2-aminopyridine (2.3 g).

reactant | 5-(2-bromopropionyl)-3-methyl-2-benzothiazolinone | 3.0 g | BrC(C(=O)C=1C=CC2=C(N(C(S2)=O)C)C1)C | C11H10BrNO2S
reactant | 2-aminopyridine | 2.3 g | NC1=NC=CC=C1 | C5H6N2
product | 5-(3-Methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone | 1.5 g | CC1=C(N=C2N1C=CC=C2)C=2C=CC1=C(N(C(S1)=O)C)C2 | C16H13N3OS
